US03968231
8-Chloro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hyroxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole acetate
Five grams of 8-chloro-4-(p-fluorphenyl)-2-[4-(p-fluorophenyl)-4-hydroxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride in 75 ml. of water is treated with 3 ml. of water containing 1.0 g. of sodium hydroxide, and the liberated free base extracted into 150 ml. of diethyl ether. The ether layer is separated, dried over magnesium sulfate and treated with 1 ml. of glacial acetic acid. The organic solvent and excess acetic acid are removed under reduced pressure and the residue triturated with hexane and filtered.

reactant | 8-chloro-4-(p-fluorphenyl)-2-[4-(p-fluorophenyl)-4-hydroxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride | Five grams | Cl.ClC=1C=2C3=C(N(C2C=CC1)C1=CC=C(C=C1)F)CN(C3)CCCC(O)C3=CC=C(C=C3)F
reactant | water | 1.0 g | O | H2O
product | 8-Chloro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hyroxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole acetate | C(C)(=O)O.ClC=1C=2C3=C(N(C2C=CC1)C1=CC=C(C=C1)F)CN(C3)CCCC(O)C3=CC=C(C=C3)F | InChI=1S/C26H23ClF2N2O.C2H4O2/c27-22-3-1-4-23-26(22)21-15-30(14-2-5-25(32)17-6-8-18(28)9-7-17)16-24(21)31(23)20-12-10-19(29)11-13-20;1-2(3)4/h1,3-4,6-13,25,32H,2,5,14-16H2;1H3,(H,3,4)
